US04571396
7-(1,4-Diazabicyclo[3.2.1]oct-4-yl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
To a solution of 0.81 g (3 mmole) 1-ethyl-6,7,8-trifluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid and 0.46 g (3 mmole) 1,8-diazabicyclo[5.4.0]undec-7-ene in 10 ml acetonitrile was added 0.37 g (3.3 mmole) 1,4-diazabicyclo[3.2.1]octane and the mixture stirred at reflux 51/2 hours. After standing overnight at room temperature a yellowish solid was filtered, washed with acetonitrile and ether and dried in vacuo to afford 0.22 g product, mp decomposed above 233° C.

reactant | 1-ethyl-6,7,8-trifluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 3 mmole, 0.81 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3 mmole, 0.46 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1,4-diazabicyclo[3.2.1]octane | 3.3 mmole, 0.37 g | N12CCNC(CC1)C2 | C6H12N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-(1,4-Diazabicyclo[3.2.1]oct-4-yl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.22 g | N12CCN(C(CC1)C2)C2=C(C=C1C(C(=CN(C1=C2F)CC)C(=O)O)=O)F | C18H19F2N3O3
